US06716861B2
tert-butyl (3R)-6-cyclohexyl-3-(3-{[(2-ethoxy-2-oxoethyl)(methyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate
Method as for preparation 106 using tert-butyl (3R)-6-cyclohexyl-3-{3-[(methylamino)methyl]-1,2,4-oxadiazol-5-yl}hexanoate (preparation 5) (1.50 g, 4.10 mmol) and ethyl bromoacetate (460 μl, 4.10 mmol) as starting materials.

reactant | tert-butyl (3R)-6-cyclohexyl-3-{3-[(methylamino)methyl]-1,2,4-oxadiazol-5-yl}hexanoate | 4.10 mmol, 1.50 g | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CNC | C20H35N3O3
reactant | ethyl bromoacetate | 4.10 mmol, 460 μl | BrCC(=O)OCC | C4H7BrO2
product | tert-butyl (3R)-6-cyclohexyl-3-(3-{[(2-ethoxy-2-oxoethyl)(methyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CN(C)CC(=O)OCC | C24H41N3O5
